US06545029B2
Methyl O-(3′-amino-1,1′-biphenyl-4-yl)-N-triphenylmethyl-L-serinate
This compound was prepared from methyl O-(4-bromophenyl)-N-triphenylmethyl-L-serinate and 3-amino phenyl boronic acid hemisulfate in analogy to the procedure of Example 1 and 2.

reactant | methyl O-(4-bromophenyl)-N-triphenylmethyl-L-serinate | BrC1=CC=C(C=C1)OC[C@H](NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC | C29H26BrNO3
reactant | 3-amino phenyl boronic acid hemisulfate | S(=O)(=O)(O)O.NC=1C=C(C=CC1)B(O)O.NC=1C=C(C=CC1)B(O)O
product | Methyl O-(3′-amino-1,1′-biphenyl-4-yl)-N-triphenylmethyl-L-serinate | NC=1C=C(C=CC1)C1=CC=C(C=C1)OC[C@H](NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC | C35H32N2O3
